US07173129B2
Ex-13E: To a solution of 2-[3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propoxy]-4-methoxy-5-thien-2-ylbenzaldehyde (Ex-13D, 0.78 g, 1.41 mmol) in tetrahydrofuran (5 mL) was added tetrabutylammonium fluoride (1 M in tetrahydrofuran, 3.0 mL, 2.9 mmol) and the mixture was stirred at room temperature for 30 min. The reaction was diluted with ethyl acetate (50 mL) and washed sequentially with a 50% ammonium chloride solution (30 mL), water (2×30 mL), brine (30 mL), dried over sodium sulfate and concentrated to a crude yellow solid. Silica gel chromatography afforded 0.37 g (99%) of 2-(3-hydroxy-2-hydroxymethylpropoxy)-4-methoxy-5-thien-2-ylbenzaldehyde as a pale yellow solid, mp 144–145° C. 1H-NMR (300 MHz, CDCl3) δ 10.33 (s, 1H), 8.10 (s, 1H), 7.38 (dd, 1H, J=3.6, 1.5 Hz), 7.30 (dd, 1H, J=5.1, 1.5 Hz), 7.07 (dd, 1H, J=5.1, 3.6 Hz), 6.59 (s, 1H), 4.35 (d, 2H, J=6.0 Hz), 4.02 (t, 4H, J=4.8 Hz), 3.96 (s, 3H), 2.33 (pentet, 1H, J=6.0 Hz), 1.89 (t, 2H, J=4.8 Hz). Anal. Calcd. for C16H18O5S: C, 59.61; H, 5.63; S, 9.95; Found: C, 59.34; H, 5.75; S, 9.82.

reactant | 2-[3-(tert-butyldimethylsilanyloxy)-2-(tert-butyldimethylsilanyloxymethyl)propoxy]-4-methoxy-5-thien-2-ylbenzaldehyde | 1.41 mmol, 0.78 g | [Si](C)(C)(C(C)(C)C)OCC(COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1)CO[Si](C)(C)C(C)(C)C | C28H46O5SSi2
reactant | tetrabutylammonium fluoride | 2.9 mmol, 1 M, 3.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-hydroxy-2-hydroxymethylpropoxy)-4-methoxy-5-thien-2-ylbenzaldehyde | 0.37 g, 99% | OCC(COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1)CO | C16H18O5S
